US07645789B2
A suspension of 2-isopropyl-5-nitro-1H-indole (100 mg, 0.49 mmol) and Raney Nickel (10 mg) in MeOH (10 mL) was hydrogenated under hydrogen (1 atm) at the room temperature overnight. The catalyst was filtered off through a celite pad and the filtrate was evaporated under vacuum to give a residue, which was purified by column (petroleum ether/ethyl acetate=5/1) to give 2-isopropyl-1H-indol-5-amine (35 mg, 41%). 1H NMR (400 MHz, CDCl3) δ 7.69 (br s, 1H), 7.10 (d, J=8.4 Hz, 1H), 6.86 (d, J=2.4 Hz, 1H), 6.58 (dd, J=2.4, 8.8 Hz, 1H), 6.07 (t, J=1.2 Hz, 1H), 3.55 (br s, 2H), 3.06-2.99 (m, 1H), 1.33 (d, J=7.2 Hz, 6H); MS (ESI) m/e (M+H+) 175.4.

reactant | 2-isopropyl-5-nitro-1H-indole | 0.49 mmol, 100 mg | C(C)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H12N2O2
catalyst | Raney Nickel | 10 mg | [Ni] | Ni
solvent | MeOH | 10 mL | CO | CH4O
product | 2-isopropyl-1H-indol-5-amine | 35 mg, 41% | C(C)(C)C=1NC2=CC=C(C=C2C1)N | C11H14N2
